US07544812B2
A solution of 2-(4-{2-[1-(4-methoxy-benzyl)-3-methyl-2-oxo-imidazolidin-4-yl]-ethoxy}-phenoxy)-2-methyl-propionic acid ethyl ester (0.198 g, 0.421 mmol) in ethanol (10 mL) was treated with aqueous 5 N NaOH (1 mL) and heated to reflux 1.5 h. The reaction mixture was cooled, the solvent removed in vacuo. The resultant residue was acidified with aqueous 1 N HCl (10 mL) and extracted with Et2O. The organic layer was dried (MgSO4) and the solvent removed in vacuo to afford 0.147 g (79%) 2-(4-{2-[1-(4-methoxy-benzyl)-3-methyl-2-oxo-imidazolidin-4-yl]-ethoxy}-phenoxy)-2-methyl-propionic acid. MS (ES+) Calc'd for C24H31N2O6 (M+1) 443. Found m/z 443 (100%). 1H NMR.

reactant | 2-(4-{2-[1-(4-methoxy-benzyl)-3-methyl-2-oxo-imidazolidin-4-yl]-ethoxy}-phenoxy)-2-methyl-propionic acid ethyl ester | 0.421 mmol, 0.198 g | C(C)OC(C(C)(C)OC1=CC=C(C=C1)OCCC1N(C(N(C1)CC1=CC=C(C=C1)OC)=O)C)=O | C26H34N2O6
reactant | NaOH | 5 N, 1 mL | [OH-].[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 2-(4-{2-[1-(4-methoxy-benzyl)-3-methyl-2-oxo-imidazolidin-4-yl]-ethoxy}-phenoxy)-2-methyl-propionic acid | 0.147 g, 79% | COC1=CC=C(CN2C(N(C(C2)CCOC2=CC=C(OC(C(=O)O)(C)C)C=C2)C)=O)C=C1 | C24H30N2O6
